US07691882B2
(6-Amino-5-(3-(6-benzyloxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamino)-acetic acid ethyl ester
To a mixture of 3-(3-(6-benzyloxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine (40 mg, 0.11 mmol) described in Example 25 and N,N-dimethylformamide (0.5 mL) were added glyoxylic acid ethyl ester polymer foam (16 mg, 0.16 mmol), α-picoline-borane (14 mg, 0.13 mmol), and acetic acid (40 μL), which was stirred overnight at the same temperature. A saturated sodium hydrogencarbonate aqueous solution was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, after which the organic layer was concentrated under a reduced pressure. The residue thus obtained was purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoroacetic acid) to obtain the title compound (4.9 mg, 8%) as a trifluoroacetic acid salt.

reactant | 3-(3-(6-benzyloxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 0.11 mmol, 40 mg | C(C1=CC=CC=C1)OC1=CC=C(C=N1)CC1=NOC(=C1)C=1C(=NC(=CC1)N)N | C21H19N5O2
reactant | glyoxylic acid ethyl ester | C(C)OC(C=O)=O | C4H6O3
reactant | α-picoline borane | 0.13 mmol, 14 mg | N1=C(C=CC=C1)C.B
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 40 μL | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | (6-Amino-5-(3-(6-benzyloxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamino)-acetic acid ethyl ester | 4.9 mg, 8% | C(C)OC(CNC1=NC(=C(C=C1)C1=CC(=NO1)CC=1C=NC(=CC1)OCC1=CC=CC=C1)N)=O | C25H25N5O4
